US08133998B2
To a cooled (0° C.) solution of N-ethyl-2,2,2-trifluoroethanamine hydrochloride, (0.45 g, 2.8 mmol) in DCM (10 mL) was added triethylamine (1.6 mL, 11.2 mmol) followed by 2-chloroacetyl chloride (0.22 mL, 2.8 mmol). The reaction was warmed to RT and stirred for 2 h. The reaction mixture was concentrated, redissolved in EtOAc (20 mL) and washed with brine (25 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated to yield 0.6 g of crude product which was further purified by flash column chromatography using 1:1 EtOAc:hexanes as the eluent. 0.5 g of 2-chloro-N-ethyl-N-(2,2,2-trifluoroethyl)acetamide, (yield: 88%) was isolated.

reactant | N-ethyl-2,2,2-trifluoroethanamine hydrochloride | 2.8 mmol, 0.45 g | Cl.C(C)NCC(F)(F)F
reactant | triethylamine | 11.2 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloroacetyl chloride | 2.8 mmol, 0.22 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-ethyl-N-(2,2,2-trifluoroethyl)acetamide | 0.5 g, yield: 88% | ClCC(=O)N(CC(F)(F)F)CC | C6H9ClF3NO
